US07511055B2
Step 3: 8-Chloro-5-iodo-2-methyl-[1,7]naphthyridine
5-Iodo-2-methyl-7H-[1,7]naphthyridin-8-one (14.2 g, 49.8 mmol) was suspended in phosphorus oxychloride (68 ml, 750 mmol) and stirred for 5 hours at 90° C. The reaction mixture was cooled to room temperature and evaporated to dryness. The residue was taken up in dichloromethane and extracted carefully with saturated NaHCO3-Solution. The aqueous layer was washed two times with dichloromethane. The organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (ethyl acetate/heptane 10:90->100:0 gradient). The desired compound was obtained as a light red solid (4.8 g, 32%), MS: m/e=305.0 (M+H+).

reactant | 5-Iodo-2-methyl-7H-[1,7]naphthyridin-8-one | 49.8 mmol, 14.2 g | IC=1C=2C=CC(=NC2C(NC1)=O)C | C9H7IN2O
reactant | phosphorus oxychloride | 750 mmol, 68 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-5-iodo-2-methyl-[1,7]naphthyridine | ClC=1N=CC(=C2C=CC(=NC12)C)I | C9H6ClIN2
